US06878690B2
Using a variation of the method described by (Rodrigues et al, 2000) to a solution of D-Mannose (18 g, 100 mmol), dissolved in distilled water (400 ml), was added sodium bicarbonate (12.6 g; 150 mmol). 2,4-Pentanedione (12.32 ml, 120 mmol) was added to the solution and the mixture allowed to stir at 90° C. for 12 hours. Afterwards the solution was washed with dichloromethane (2 ×250 ml) and the aqueous phase treated with Dowex ion exchange resin (50W-X8, H+ form) until the pH was stable at ˜4. The resin was filtered off through a sintered glass funnel and washed with distilled water (2×500 ml). The combined filtrate and washings were evaporated under reduced pressure to give crude 1-(3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-propan-2-one, ESMS (−ve) 219 (M−H). This material (10.9 g, 49.5 mmol), was dissolved in pyridine (200 ml), the mixture cooled to 0° C. and with stirring, under dry nitrogen, triphenylmethyl chloride (2.5 eq., 34.4 g) was added slowly. The reaction mixture was warmed to 50° C. and stirred for 16 hours After cooling, acetic anhydride (47 ml) was added and the solution stirred for a further 60 minutes at 50° C. The mixture was then poured into iced water (200 ml) and the solution was extracted with dichloromethane (3×200 ml). The combined organic layers were successively washed with water (200 ml), saturated sodium bicarbonate (200 ml) and water (200 ml). The organic phase was dried (sodium sulfate), filtered and the filtrate evaporated under reduced pressure to give acetic acetic acid-4,5-diacetoxy-6-(2-oxo-propyl)-2-trityloxymethyl-tetrahydro-pyran-3-yl ester, ESMS (+ve) 611 (M+Na). The residue was dissolved in dichloromethane (300 ml) and anhydrous ferric chloride (7.8 g) was added. After stirring at room temperature for 2 hours, the organic solution was washed with water (3×200 ml). The organic layer was dried (sodium sulfate), filtered and the filtrate evaporated under reduced pressure. The residue was taken up in 40-60 petroleum spirits (xx ml), and silica gel (0.040-0.063 mm; 20 g) was added. The slurry was added to the top of a silica gel (0.040-0.063 mm; 100 g) column (70×200 mm) and eluted by vacuum as follows: petroleum spirits (bp 40-60° C.) (400 ml, f1), 5% ethyl acetate/petroleum spirits (400 ml, f2), 10% ethyl acetate/pet spirit (400 ml, f3), 25% ethyl acetate/pet spirit (400 ml, f4), 50% ethyl acetate/pet spirit (800 ml, f5[400 ml], f6[400 ml]), 100% ethyl acetate (800 ml, f7[400 ml], f8[400 ml], 5% methanol/dichloromethane (400 ml, f9), and 10% methanol/dichloromethane (400 ml, f10). Acetic acid-4,5-diaectoxy-2-hydroxymethyl-6-(2-oxo-propyl)-tetrahydro-pyran-3-yl ester was found in f6-f8 (3.1 g, 18% overall), ESMS (+ve) 369 (M+Na). This compound (630 mg 1.82 mmol) was dissolved in dichloromethane (20 ml) and triethylamine (2 eq, 0.5 ml) and the mixture cooled to 0° whereupon phosphorus oxychloride (0.7 ml) was added dropwise with stirring under a dry nitrogen atmosphere. The mixture was allowed to warm to room temperature and stirred overnight. The mixture was filtered and evaporated to dryness under reduced pressure. The residue was dissolved in a 1:1 mixture of acetone and water (10 ml) and kept at 45-50° for 2 hours. After evaporation to dryness the residue was evaporated from 40 ml of ethanol. The residue was stirred at room temperature for 1 hour in water (5 ml) that contained sodium methoxide (around 5 eq, 0.5 g), after which it was treated with Dowex ion exchange (50W-X8, H+form) to remove sodium ions. The resin was filtered through a sintered glass funnel and washed with distilled water (2×5 ml). The combined filtrate and washings were evaporated under reduced pressure and the residue evaporated from ethanol (50 ml). This material was then dissolved in a minimum of water and added dropwise to a solution of sodium acetate (1.1 eq, 164 mg) in ethanol (40 ml). The resulting precipitate was pelleted by centrifugation and the ethanol decanted off, the solid was washed with diethyl ether (2×50 ml) and dried to give phosphoric acid mono-[3,4,5-trihydroxy-6-(2-oxo-propyl)-tetrahydro-pyran-2-yl methyl] ester monosodium salt (291 mg, 50%).

reactant | D-Mannose | 100 mmol, 18 g | O=C[C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | sodium bicarbonate | 150 mmol, 12.6 g | C([O-])(O)=O.[Na+]
reactant | 2,4-Pentanedione | 120 mmol, 12.32 ml | CC(CC(C)=O)=O | C5H8O2
solvent | water | 400 ml | O | H2O
product | 1-(3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-propan-2-one | OC1C(OC(C(C1O)O)CO)CC(C)=O | C9H16O6
